US07579341B2
(S)-4-{(R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyloxy]-propionyl}-1-(1-methyl-piperidin-4-yl)-piperazine-2-carboxylic acid
0.26 mL (0.13 mmol) 0.5 M LiOH solution were added to 50.0 mg (0.06 mmol) ethyl(S)-4-{(R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyloxy]-propionyl}-1-(1-methyl-piperidin-4-yl)-piperazine-2-carboxylate in 0.8 mL THF and the reaction mixture was stirred overnight at RT. To complete the reaction another 50 μL (0.1 mmol) 0.5 M LiOH solution were added, it was stirred for another 4 h at RT and then the reaction mixture was purified by HPLC without working up; the fractions containing the product were combined and lyophilised.

reactant | LiOH | 0.13 mmol, 0.5 M, 0.26 mL | [Li+].[OH-]
reactant | ethyl(S)-4-{(R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyloxy]-propionyl}-1-(1-methyl-piperidin-4-yl)-piperazine-2-carboxylate | 0.06 mmol, 50.0 mg | NC1=C(C=C(C=C1C(F)(F)F)C[C@H](C(=O)N1C[C@H](N(CC1)C1CCN(CC1)C)C(=O)OCC)OC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O)Cl | C38H49ClF3N7O6
reactant | LiOH | 0.1 mmol, 0.5 M, 50 μL | [Li+].[OH-]
solvent | THF | 0.8 mL | C1CCOC1 | C4H8O
product | (S)-4-{(R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyloxy]-propionyl}-1-(1-methyl-piperidin-4-yl)-piperazine-2-carboxylic acid | NC1=C(C=C(C=C1C(F)(F)F)C[C@H](C(=O)N1C[C@H](N(CC1)C1CCN(CC1)C)C(=O)O)OC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O)Cl | C36H45ClF3N7O6
